US07157447B2
2-((3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorobenzoic acid.
To a suspension of intermediate 154, methyl 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorobenzoate. (500 mg, 1.01 mmol) in MeOH (10 mL) and CH3CN (5 mL) was added 1N NaOH (2 mL) and the mixture stirred at room temperature for 2 hrs. The mixture was concentrated in vacuo and the residue purified by reverse phase column chromatography (YMC, C-18 ODS, 10–25% CH3CN/H2O) to provide 90 mg (Yield 19%) of the title compound as an off-white powder: LC/MS m/z 482 (M+H).

reactant | methyl 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorobenzoate | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C(=O)OC)C=C(C=C1)F | C26H26FN3O6
reactant | CH3CN | 5 mL | CC#N | C2H3N
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 2-((3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorobenzoic acid | 90 mg, Yield 19% | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C(=O)O)C=C(C=C1)F | C25H24FN3O6
